US05420275
3-Amino-6-chloro-4,5-diethoxycarbonyl-2-(3-aminophenyl)pyridine
In 8 ml of ethanol were suspended 0.37 g of 2-chloro-3,4-diethoxycarbonyl-5-nitro-6-(3-nitrophenyl)pyridine and 0.45 g of reduced iron, and the suspension was heated to 60° C. After 1.9 ml of conc. hydrochloric acid was added thereto, the mixture was heated for 30 minutes under reflux. After the reaction mixture was concentrated, the residue was extracted with ethyl acetate, followed by washing with an aqueous solution of sodium hydrogencarbonate and an aqueous solution of sodium chloride and drying over magnesium sulfate. After the extract was concentrated under reduced pressure, the residue was subjected to silica gel column chromatography (eluent: chloroform/methanol 40:1) to give 0.29 g of the title compound as a yellowish orange viscous oily substance.

reactant | 2-chloro-3,4-diethoxycarbonyl-5-nitro-6-(3-nitrophenyl)pyridine | 0.37 g | ClC1=NC(=C(C(=C1C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C1=CC(=CC=C1)[N+](=O)[O-] | C17H14ClN3O8
reactant | hydrochloric acid | 1.9 ml | Cl | ClH
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 3-Amino-6-chloro-4,5-diethoxycarbonyl-2-(3-aminophenyl)pyridine | 0.29 g | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)Cl)C1=CC(=CC=C1)N | C17H18ClN3O4
